US06191273B1
6-[5-(1-Anthraquinonecarbonyl)amino-1-pentanyl]-3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo[10.3.1]-hexadeca-1(16),12,14-triene
A solution of anthraquinone-2-carboxylic acid (151 mg, 0.6 mmol) and 4-methylmorpholine (91 mg, 0.9 mmol) in 10 mL of CH2Cl2 was stirred at rt for 30 min. After addition of DCC (124 mg, 0.6 mmol), HOBT (81 mg, 0.6 mmol), the solution was stirred another 30-min. A solution of 3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene (405 mg, 0.6 mmol) in 5 mL of CH2Cl2 was added to the above solution and the resulting solution was stirred for 30 h. The reaction solution was filtered and the filtrate was washed with brine, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography on a silica gel column using EtOAc as eluent to give 0.41 g (76%) of the title compound as a yellow foam. 1H NMR (CDCl3) δ 1.40-1.75 (m, 4H), 1.91-2.11 (m, 2H), 2.12-2.32 (m, 4H), 3.14-3.30 (m, 4H), 3.30-3.51 (m, 4H), 4.20-4.35 (m, 2H), 6.96-7.10 (br, 1H), 7.31-8.49 (m, 18H). HRMS (FAB) m/z 910.2506 (M+1)+ (C44H44N7O11S2 requires 910.2540). A satisfactory elemental analysis result was obtained for compound 6-[5-(1-Anthraquinonecarbonyl) amino-1-pentanyl]-3,6,10,16-tetraazabicyclo[10.3.1]hexadeca-1(16),12,14-triene (5) 5, a derivative of the title compound.

reactant | anthraquinone-2-carboxylic acid | 0.6 mmol, 151 mg | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H8O4
reactant | 4-methylmorpholine | 0.9 mmol, 91 mg | CN1CCOCC1 | C5H11NO
reactant | DCC | 0.6 mmol, 124 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 0.6 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene | 0.6 mmol, 405 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC=2C=CC=C(CN(CCCNCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])N2 | C24H26N6O8S2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-[5-(1-Anthraquinonecarbonyl)amino-1-pentanyl]-3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo[10.3.1]-hexadeca-1(16),12,14-triene | 0.41 g, 76% | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)NCCCCCN1CCN(CC=2C=CC=C(CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])N2)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C44H43N7O11S2
